US07087626B2
(S)-[3-(4-Fluoro-phenyl)-2-(6-methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-6-yl]-acetonitrile
A mixture of potassium cyanide (44 mg, 0.67 mmol), tetrabutylammonium iodide (catalytic), and (S)-methanesulfonic acid 3-(4-fluoro-phenyl)-2-(6-methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-6-ylmethyl ester (54 mg, 0.135 mmol) in N,N-dimethylformamide (0.35 mL) and water (0.13 mL) is heated at 70° C. for 4 h. The mixture is cooled, taken up in ethyl acetate (20 mL), washed with water and brine, dried (magnesium sulfate), filtered, and concentrated in vacuo. The residue is chromatographed on SiO2 (2% methanol/chloroform) to yield the title compound, 25 mg (56%).

reactant | potassium cyanide | 0.67 mmol, 44 mg | [C-]#N.[K+]
reactant | (S)-methanesulfonic acid 3-(4-fluoro-phenyl)-2-(6-methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-6-ylmethyl ester | 0.135 mmol, 54 mg | FC1=CC=C(C=C1)C1=C2N(N=C1C1=NC(=CC=C1)C)[C@@H](CC2)COS(=O)(=O)C | C20H20FN3O3S
catalyst | tetrabutylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 0.35 mL | CN(C=O)C | C3H7NO
solvent | water | 0.13 mL | O | H2O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | (S)-[3-(4-Fluoro-phenyl)-2-(6-methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-6-yl]-acetonitrile | FC1=CC=C(C=C1)C1=C2N(N=C1C1=NC(=CC=C1)C)[C@@H](CC2)CC#N | C20H17FN4
